Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Suprapubic pain, dysuria  
 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o man with PMHx Addisons disease, hx DVT on AC, BPH, and 
recurrent UTI who presents with complaint of suprapubic pain and 
dysuria.  

The patient reports that on ___ he was diagnosed with UTI at 
his PCP office in ___ and started on nitrofurantoin, however was 
soon transitioned to Bactrim (___ompleted).  On 
___ prior to admission, he developed recurrence of his 
suprapubic pain radiating to testicles, dysuria, and increased 
urinary frequency above baseline.  At baseline he has urinary 
frequency and nocturia ___ BPH.  He denies fevers/chills/back 
pain/hematuria/decreased PO intake/malaise. Of note, patient 
lives in ___ primarily and receives his medical care there, but 
is currently in the ___ area for the next few weeks for work. 
 

In the ED, initial vitals were: 97.7 88 133/82 18 98% RA  
Exam notable for: Tender in suprapubic area. Normal testicular 
exam. Normal prostate.  
Labs notable for: WBC 14.5 (68N), BUN/Cr ___, INR 3.0; UA 
grossly positive  
Patient was given:  Ceftriaxone 1 g IV  
Decision was made to admit for intravenous antibiotics.  
 
Vitals prior to transfer: 98.3 76 135/74 18 99% RA  
 
On the floor, patient endorses HPI as above.  He states about 6 
months ago in ___, he was diagnosed with his first ever UTI 
while in ___ on business.  Presented to ___ 
with dysuria and suprapubic pain and was started on a course of 
PO ABX.  However, he never completed this course of ABX when his 
symptoms resolved and when found out his UCx came back as 
"contaminated".  The patient then followed up with his Urologist 
in ___ in ___ ___ who did a repeat 
UA/UCx.  UA/UCx at that time was positive and the patient 
completed a 7 day course of unknown ABX.  Interestly on 
presentation to his urologist, the patient was completl 
asymptomatic.  The patient originally established care with a 
urologist about ___ years ago when he noted hematuria (is on 
lifelong AC ___ hx DVT unprovoked ___ clotting factor 
deficiency).  The patient states he has a hx of 2 cystoscopies 
to evaluate for the hematuria and hx of 2 prostate biopsies for 
evaluation of his BPH.  He denies history of prostate or bladder 
cancer.  

Currently the patient endorses symptoms of suprapubic pressure 
and urinary frequency and dysuria but otherwise feels quite 
well.  Denies urethral discharge or concerns for STIs.  He is 
wondering why he is having this predisposition to recurrent 
urinary infections.  He is circumcised.    
 
ROS: 10-point ROS otherwise negative.  
 
Past Medical History:
BPH on medical therapy
Recurrent UTI (since ___, no hx of pyelonephritis)
Hx unprovoked DVT on indefinite AC (?has clotting favor 
deficiency, has outpt hemato___)
Addisons Disease on hydrocortisone, fludrocortisone
Hypothyrodism
Hx CAD (no PCI/CABG)
 
Social History:
___
Family History:
No family history of bladder or prostate cancer.  His mother had 
diabetes.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=====================
Vital Signs:  T97.9 BP136/92 HR70 RR18 98% on RA
General: Alert, oriented, no acute distress, comfortable 
appearing sitting in bed, cushingoid appearance
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, +buffalo hump
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-distended, bowel sounds present, +ttp 
suprapubic region; no CVAT
GU: normal testicular exam, normal prostate (in ED); no gross 
discharge, circumcised
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema; hyperpigmented spots on b/l ___  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation

DISCHARGE PHYSICAL EXAM:
=====================
Vital Signs:  T97.9 BP136/92 HR70 RR18 98% on RA [SAME DAY 
DISCHARGE]
General: Alert, oriented, no acute distress, comfortable 
appearing sitting in bed, cushingoid appearance
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, +buffalo hump
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-distended, bowel sounds present, +ttp 
suprapubic region; no CVAT
GU: normal testicular exam, normal prostate (in ED); no gross 
discharge, circumcised
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema; hyperpigmented spots on b/l ___  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation

 
Pertinent Results:
ADMISSION LABS:
=============
___ 12:15AM BLOOD WBC-14.5* RBC-4.84 Hgb-14.7 Hct-44.3 
MCV-92 MCH-30.4 MCHC-33.2 RDW-12.8 RDWSD-42.3 Plt ___
___ 12:15AM BLOOD Neuts-67.8 ___ Monos-9.5 Eos-1.7 
Baso-0.6 Im ___ AbsNeut-9.84* AbsLymp-2.88 AbsMono-1.38* 
AbsEos-0.24 AbsBaso-0.09*
___ 12:15AM BLOOD ___ PTT-46.8* ___
___ 12:15AM BLOOD Glucose-119* UreaN-28* Creat-0.8 Na-138 
K-3.9 Cl-101 HCO3-26 AnGap-15
___ 10:51PM URINE Color-Yellow Appear-Cloudy Sp ___
___ 10:51PM URINE Blood-SM  Nitrite-NEG Protein-300 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.5* Leuks-LG
___ 10:51PM URINE RBC-46* WBC->182* Bacteri-MANY Yeast-NONE 
Epi-0
___ 10:51PM URINE WBC Clm-MOD Mucous-RARE

DISCHARGE LABS:  [SAME DAY DISCHARGE]
=============
___ 12:15AM BLOOD WBC-14.5* RBC-4.84 Hgb-14.7 Hct-44.3 
MCV-92 MCH-30.4 MCHC-33.2 RDW-12.8 RDWSD-42.3 Plt ___
___ 12:15AM BLOOD Neuts-67.8 ___ Monos-9.5 Eos-1.7 
Baso-0.6 Im ___ AbsNeut-9.84* AbsLymp-2.88 AbsMono-1.38* 
AbsEos-0.24 AbsBaso-0.09*
___ 12:15AM BLOOD ___ PTT-46.8* ___
___ 12:15AM BLOOD Glucose-119* UreaN-28* Creat-0.8 Na-138 
K-3.9 Cl-101 HCO3-26 AnGap-15
___ 10:51PM URINE Color-Yellow Appear-Cloudy Sp ___
___ 10:51PM URINE Blood-SM  Nitrite-NEG Protein-300 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.5* Leuks-LG
___ 10:51PM URINE RBC-46* WBC->182* Bacteri-MANY Yeast-NONE 
Epi-0
___ 10:51PM URINE WBC Clm-MOD Mucous-RARE

MICRO:
=====
___ UCX PENDING 

STUDIES:
=======
NONE
 
Brief Hospital Course:
___ y/o man with PMHx Addisons disease, BPH, and recurrent UTI 
who presents with complaint of suprapubic pain and dysuria:  
 
# UTI: Patient with history of recurrent urinary tract 
infections (first episode in ___, no known history of 
resistant bacteria.  He is s/p 7 day TMP-SMX course for UTI 
diagnosed ___ at his PCP office in ___ (Dr. ___.  Symptoms 
initially resolved on TMP-SMX but recurred shortly after, about 
4 days prior to admission, with suprapubic pain and dysuria.  In 
the ED, found to have grossly positive urinalysis and 
leukocytosis, but afebrile, without CVAT, feeling otherwise 
well. He received a 1x dose of CTX in the ED.  After discussion 
with his outpatient PCP office, it was discovered that the ___ 
UCx was a proteus species that was TMP-SMX resistant, yet 
sensitive to ciprofloxacin.  He was medically stable for 
discharge on day of admission and was discharged on a 7 day 
course of oral ciprofloxacin.  He needs outpatient follow up 
with his urologist (Dr. ___ for further evaluation of his 
recurrent UTIs.  Patient will make a follow up appointment with 
his urologist upon return to ___. 

# Addisons Disease: Patient was diagnosed with this several 
years ago, is on a stable outpatient regimen and follows with 
outpatient endocrinology in ___.  Patient states he is advised to 
double his hydrocortisone dose when sick for stress dosing.  For 
his acute illness, he was discharged with the advice to continue 
stress dosing for a total of three days and then to resume to 
his normal regimen. 

# Hx unprovoked DVT on AC: Patient has clotting factor mutation 
(unclear specifics) and has seen hematology in the past.  He has 
a history of unprovoked ___ DVT years ago.  He currently takes 
5mg warfarin daily and per patient, his INR normally ranges 
2.3-2.4.  He understands his INR goal is ___.  Patient needs 
close monitoring of his INR while on antibiotics and this was 
discussed at length with him.  He was given prescriptions to 
have his INR checked ___, and ___ 
with instructions for the ___ lab to fax over the INR results 
to his PCP's office, who is managing his anticoagulation.  

# BPH: His baseline urinary symptoms are nocturia with some 
frequency/hesitancy.  These symptoms are managed well on his 
home regimen tamsulosin and finasteride when not acutely 
symptompatic from a UTI.  Tamsulosin and finastide were 
continued during this admission. 

# Hypothyrodism: stable, patient was continued on synthroid.

# Hx CAD: Patient states he has an outpatient cardiologist and 
has had a nuclear stress test in past that revealed some 
defect(?) but he has not required PCI or CABG.  Was formerly on 
ASA but this caused nosed bleeds.  Denies smoking or DM history. 
During this admission, he was continued on a statin. 

# TRANSITIONAL ISSUES #
====================
Discharge Cr: 0.08
Patient will follow up with Urologist Dr. ___ (___ 
___) ___
Patient will follow up with PCP ___ (___ 
___)  ___
Patient will get his INR checked on ___, 
and ___ at ___ with results to be faxed to PCP 
___ who is managing his AC
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrocortisone 30 mg PO QAM 
2. Fludrocortisone Acetate 0.05 mg PO DAILY 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Warfarin 5 mg PO DAILY16 
5. Tamsulosin 0.4 mg PO QHS 
6. Finasteride 5 mg PO DAILY 
7. Rosuvastatin Calcium 10 mg PO QPM 
8. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H UTI Duration: 12 Doses 
Please take one pill every 12 hours for 6 total days.  
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*12 Tablet Refills:*0 
2.  Finasteride 5 mg PO DAILY  
3.  Fludrocortisone Acetate 0.05 mg PO DAILY  
4.  FoLIC Acid 1 mg PO DAILY  
5.  Hydrocortisone 30 mg PO QAM  
6.  Levothyroxine Sodium 100 mcg PO DAILY  
7.  Rosuvastatin Calcium 10 mg PO QPM  
8.  Tamsulosin 0.4 mg PO QHS  
9.  Warfarin 5 mg PO DAILY16  
10.Outpatient Lab Work
Please check INR on ___

INSRUCTIONS TO LAB:
PLEASE FAX INR RESULT TO ___. ___ ___ WHO IS 
MANAGING ANTICOAGULATION
11.Outpatient Lab Work
Please check INR on ___

INSRUCTIONS TO LAB:
PLEASE FAX INR RESULT TO ___. ___ ___ WHO IS 
MANAGING ANTICOAGULATION
12.Outpatient Lab Work
Please check INR on ___

INSRUCTIONS TO LAB:
PLEASE FAX INR RESULT TO ___. ___ ___ WHO IS 
MANAGING ANTICOAGULATION

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: UTI

Secondary Diagnosis:
Hx Unprovoked DVT on AC
BPH
Addisons Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for a UTI.  It seems as though 
the UTI you got in ___ was resistant to the oral antibiotic 
Bactrim.  This is why your symptoms returned shortly after after 
finishing the Bactrim.  Your UTI is sensitive to a medication 
called Ciprofloxacin (antibiotic).  You should finish a 7 day 
course of Cipro through ___. 

Please take your hydrocortisone medication at 60mg dosing for 
___ and ___ and then return to the 30 mg dosing.  Take all 
your other medications as you were doing before admission.  

Ciprofloxacin may decrease the effectiveness of your Coumadin 
(blood thinner) so it is realy important you get your INR 
checked while you are on this antibiotic!!  We have written 
prescriptions for you to get your INR checked at ___ 
___. You can ___ the location of these laboratories 
in the cities you will be traveling in. These INR checks should 
occur on ___, and ___. The lab will fax your INR results 
over to your primary care doctor Dr. ___ manage 
your Coumadin dosing.

It is also important that you schedule an appointment to follow 
up with your Urologist Dr. ___ your PCP ___ 
___ you return to ___. 

It is really important you schedule a follow up appointment with 
Dr. ___ another primary care doctor in his office) to 
follow up your hospitalization in ___ and to see if your 
symptoms have resolved!  

We wish you the best! It was a pleasure taking care of you!

Your ___ Team
 
Followup Instructions:
___